US06677368B2
To a solution of 4-(3-bromo-phenyl)-1,3-dihydro-indol-2-one (72 mg, 0.25 mmol) and 4-[(cis)-3,5-dimethyl-piperazine-1-carbonyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde (68.5 mg, 0.25 mmol) in ethanol (2 mL) was added piperidine (3 drops). The reaction mixture was stirred at room temperature for three days. The reaction solution was evaporated, and purified on a silica gel column eluting with MeOH—CH2Cl2 5:95 to provide pure product 4-(3-bromo-phenyl)-3-[4-[(cis)-3,5-dimethyl-piperazine-1-carbonyl)-3,5-dimethyl-1H-pyrrol-2-ylmethylene]-1,3-dihydro-indol-2-one as a yellow solid (95 mg, 70%).

reactant | 4-(3-bromo-phenyl)-1,3-dihydro-indol-2-one | 0.25 mmol, 72 mg | BrC=1C=C(C=CC1)C1=C2CC(NC2=CC=C1)=O | C14H10BrNO
reactant | 4-[(cis)-3,5-dimethyl-piperazine-1-carbonyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde | 0.25 mmol, 68.5 mg | C[C@@H]1CN(C[C@@H](N1)C)C(=O)C=1C(=C(NC1C)C=O)C | C14H21N3O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 4-(3-bromo-phenyl)-3-[4-[(cis)-3,5-dimethyl-piperazine-1-carbonyl)-3,5-dimethyl-1H-pyrrol-2-ylmethylene]-1,3-dihydro-indol-2-one | 95 mg, 70% | BrC=1C=C(C=CC1)C1=C2C(C(NC2=CC=C1)=O)=CC=1NC(=C(C1C)C(=O)N1C[C@H](N[C@H](C1)C)C)C | C28H29BrN4O2
